US06498154B1
3-[(2R,4S)-2,4-Dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl]-5-fluorobenzonitrile
A mixture of 6-bromo-2,4-dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazine (0.6 g, 1.9 mmol), 3-cyano-5-fluorobenzene boronic acid (0.45 g, 2.7 mmol), tetrakis(triphenylphosphine)palladium (0) (0.2 g, 0.17 mmol), sodium carbonate (0.6 g, 5.7 mmol) in a mixture of DME and water (20/5 mL) was subject to a positive nitrogen flow to remove oxygen and then heated to 85° C. under a blanket of nitrogen for 2 hours. The mixture was allowed to cool to ambient temperature. Brine (30 mL) and ethyl acetate (100 mL) were added. The organic layer was separated and aqueous layer was extracted with ethyl acetate (3×30 mL). The combined organic layers were dried (MgSO4), and evaporated. The residue was purified by a silica gel column chromatography(hexane:ethyl acetate/4:1) to afford the title compound as off-white solid (0.09 g, 13%): mp128-129° C.; 1H-NMR (DMSO-d6) δ 8.08 (s, 1H), 7.91 (dt, 1H, J=10.7, 1.9 Hz), 7.71 (d, 1H, J=2.0 Hz), 7.65 (m, 1H), 7.57 (dd, 1H, J=8.8, 2.4 Hz), 7.32-7.36 (m, 2H), 7.24-7.29 (m, 3H), 6.71 (d, 1H, J=1.6 Hz), 6.69 (d, 1H, J=8.3 Hz), 4.33 (m, 1H), 1.84 (s, 3H), 1.24 (d, 3H, J=5.5 Hz); MS (ESI) m/z 357 [M−H]−.

reactant | 6-bromo-2,4-dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazine | 1.9 mmol, 0.6 g | BrC=1C=CC2=C(C(OC(N2)C)(C2=CC=CC=C2)C)C1 | C16H16BrNO
reactant | 3-cyano-5-fluorobenzene boronic acid | 2.7 mmol, 0.45 g | C(#N)C=1C=C(C=C(C1)F)B(O)O | C7H5BFNO2
reactant | sodium carbonate | 5.7 mmol, 0.6 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | COCCOC | C4H10O2
solvent | water | 5 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.17 mmol, 0.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[(2R,4S)-2,4-Dimethyl-4-phenyl-1,4-dihydro-2H-3,1-benzoxazin-6-yl]-5-fluorobenzonitrile | 0.09 g, 13% | C[C@@H]1NC2=C([C@@](O1)(C1=CC=CC=C1)C)C=C(C=C2)C=2C=C(C#N)C=C(C2)F | C23H19FN2O
